US03994940
In the manner given in Example 1C, 5-fluoro-2-[3-[2-(dimethylamino)ethyl]-5-(phthalimidomethyl)-4H-1,2,4-triazol-4-yl]benzophenone in ethanol is refluxed with hydrazine hydrate to give 1-[2-(dimethylamino)ethyl]-8-fluoro-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine. This compound is converted to its hydrobromide by treating it with hydrogen bromide gas in ether.

reactant | 5-fluoro-2-[3-[2-(dimethylamino)ethyl]-5-(phthalimidomethyl)-4H-1,2,4-triazol-4-yl]benzophenone | FC=1C=CC(=C(C(=O)C2=CC=CC=C2)C1)N1C(=NN=C1CN1C(C=2C(C1=O)=CC=CC2)=O)CCN(C)C | C28H24FN5O3
reactant | hydrazine hydrate | O.NN
solvent | ethanol | C(C)O | C2H6O
product | 1-[2-(dimethylamino)ethyl]-8-fluoro-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine | CN(CCC1=NN=C2N1C1=C(C(=NC2)C2=CC=CC=C2)C=C(C=C1)F)C | C20H20FN5
